US07985755B2
Benzo[1,3]dioxol-5-yl-[4-(2,4-diamino-quinazolin-5-yl)-piperazin-1-yl]-methanone
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and piperonyloyl chloride (75.7 mg; 0.41 mmol) to obtain 42.5 mg. (54% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.79 (s, 1H), 7.39 (t, J=8.0 Hz, 1H), 7.15 (br s, 1H), 7.03 (s, 1H), 6.99 (m, 3H), 6.89 (dd, J=7.6, 0.8 Hz, 1H), 6.08 (s, 2H), 5.93 (br s, 2H), 3.27 (m, 4H), 3.06 (m, 2H), 2.76 (m, 2H). ESIMS+394.2 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | piperonyloyl chloride | 0.41 mmol, 75.7 mg | C(C1=CC=2OCOC2C=C1)(=O)Cl | C8H5ClO3
product | Benzo[1,3]dioxol-5-yl-[4-(2,4-diamino-quinazolin-5-yl)-piperazin-1-yl]-methanone | 54% yield | O1COC2=C1C=CC(=C2)C(=O)N2CCN(CC2)C2=C1C(=NC(=NC1=CC=C2)N)N | C20H20N6O3
